US04946854
3.4 g (0.02 mol) of 2-chloro-5-nitroaniline, 8.6 g (0.04 mol) of 2,3-dichloro-5-trifluoromethylpyridine and 400 mg of copper powder are maintained at 230° C. overnight in a small bomb tube (25 ml). After cooling, the crude product is purified by column chromatography (silica gel, petroleum ether:methylene chloride=6:1), affording 1.6 g of N-(3-chloro-5-trifluoromethyl-2-pyridyl)-2-chloro-5-nitroaniline in the form of a yellow powder (m.p. 122°-124° C.).

reactant | 2-chloro-5-nitroaniline | 0.02 mol, 3.4 g | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 0.04 mol, 8.6 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
catalyst | copper | 400 mg | [Cu] | Cu
product | N-(3-chloro-5-trifluoromethyl-2-pyridyl)-2-chloro-5-nitroaniline | 1.6 g | ClC=1C(=NC=C(C1)C(F)(F)F)NC1=C(C=CC(=C1)[N+](=O)[O-])Cl | C12H6Cl2F3N3O2
